US08389513B2
1-Trifluoromethyl-cyclopropanecarboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-1) and 1-trifluoromethyl-cyclopropanecarboxylic acid following procedure I yielded the title compound as a colorless solid. MS (ISP): m/z=396.1 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OCC1(F)F)N)C)F | C11H12F3N3O
reactant | 1-trifluoromethyl-cyclopropanecarboxylic acid | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
product | 1-Trifluoromethyl-cyclopropanecarboxylic acid [3-((R)-2-amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OCC([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1(CC1)C(F)(F)F)(F)F | C16H15F6N3O2
